US09399647B2
The acetic acid 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester (4 g, 0.014 mol) in 20 ml of POCl3 was refluxed for 2 h. The excess of POCl3 was distilled off; the reaction mixture was quenched with ice, and extracted with ethyl acetate (3×25 ml). The combined organic layers were washed with bicarbonate solution, dried over anhydrous sodium sulphate, concentrated and dried to give acetic acid 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester (3.5 g, 85%) as brown solid. 1H NMR (400 MHz, CDCl3): δ 1.85-1.95 (m, 4H), 2.20 (s, 3H), 2.84-2.90 (m, 2H), 3.04-3.10 (m, 2H), 5.30 (s, 2H); LC-MS: [M+H]=297.2 & 299.1 m/z.

reactant | acetic acid 4-hydroxy-5,6,7,8-tetrahydrobenzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester | 0.014 mol, 4 g | OC=1C2=C(N=C(N1)COC(C)=O)SC1=C2CCCC1 | C13H14N2O3S
reactant | POCl3 | 20 ml | O=P(Cl)(Cl)Cl | Cl3OP
product | acetic acid 4-chloro-5,6,7,8-tetrahydro-benzo[4,5]thieno[2,3-d]pyrimidin-2-ylmethyl ester | 3.5 g, 85% | ClC=1C2=C(N=C(N1)COC(C)=O)SC1=C2CCCC1 | C13H13ClN2O2S
